US06825181B1
Step 1: Synthesis of N-(2,2-dimethoxyethyl)-4-methylbenzenesulfonamide:
5.25 g (50 mmol) of aminoacetaldehyde dimethylacetal was dissolved in 400 ml of tetrahydrofuran. 106 g (1 mol) of sodium carbonate and 11.44 g (60 mmol) of p-toluenesulfonyl chloride were added to the obtained solution. They were stirred for 3 days and then treated with dichloromethane as the extracting solvent in an ordinary manner to obtain the title compound. After the purification by the silica gel column chromatography, the title compound was obtained.

reactant | aminoacetaldehyde dimethylacetal | 50 mmol, 5.25 g | COC(CN)OC | C4H11NO2
reactant | sodium carbonate | 1 mol, 106 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-toluenesulfonyl chloride | 60 mmol, 11.44 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N-(2,2-dimethoxyethyl)-4-methylbenzenesulfonamide | COC(CNS(=O)(=O)C1=CC=C(C=C1)C)OC | C11H17NO4S
